US08809538B2
4-methoxy-2-phenoxynicotinonitrile
A solution of 2-chloro-4-methoxynicotinonitrile (1.02 g) in dimethylacetamide (30 mL) was treated with cesium carbonate (2.96 g) followed by phenol (0.683 g) at room temperature. The mixture was heated to 75° C. overnight. The mixture was cooled to room temperature, diluted with water (100 mL) and the precipitated solids collected by filtration, to provide the title compound (0.964 g) with the following physical data.

reactant | 2-chloro-4-methoxynicotinonitrile | 1.02 g | ClC1=C(C#N)C(=CC=N1)OC | C7H5ClN2O
reactant | cesium carbonate | 2.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | phenol | 0.683 g | C1(=CC=CC=C1)O | C6H6O
solvent | dimethylacetamide | 30 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 100 mL | O | H2O
product | 4-methoxy-2-phenoxynicotinonitrile | 0.964 g | COC1=CC=NC(=C1C#N)OC1=CC=CC=C1 | C13H10N2O2
